US05374625
Sodium methoxide (40 mg, 0.74 mmole) was added to a solution of 9-[(1R,2R,4S,5S)-4,5-bis(benzoyloxymethyl)-2-hydroxycyclohexyl]-adenine (185 mg, 0.37 mmole) in a solvent mixture consisting of anhydrous methanol (4 ml) and anhydrous THF (4 ml) under ice cooling. After stirring the resulting mixture at room temperature for 5 hours, the reaction mixture was neutralized with dilute hydrochloric acid, and the solvent was distilled off therefrom under reduced pressure. The residue was purified by Diaion HP-20 column chromatography (methanol concentration gradient) to obtain 9-[(1R,2R,4S,5S)-4,5-bis(hydroxymethyl)-2-hydroxycyclohexyl]-adenine (109 mg, Yield 100%).

reactant | Sodium methoxide | 0.74 mmole, 40 mg | C[O-].[Na+]
reactant | 9-[(1R,2R,4S,5S)-4,5-bis(benzoyloxymethyl)-2-hydroxycyclohexyl]-adenine | 0.37 mmole, 185 mg | C(C1=CC=CC=C1)(=O)OC[C@H]1C[C@H]([C@@H](C[C@@H]1COC(C1=CC=CC=C1)=O)N1C2=NC=NC(=C2N=C1)N)O | C27H27N5O5
reactant | methanol | 4 ml | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 9-[(1R,2R,4S,5S)-4,5-bis(hydroxymethyl)-2-hydroxycyclohexyl]-adenine | 109 mg, Yield 100% | OC[C@H]1C[C@H]([C@@H](C[C@@H]1CO)N1C2=NC=NC(=C2N=C1)N)O | C13H19N5O3
